US08791142B2
Step 1) tert-butyl N-(4-cyanopyridin-2-yl)glycinate
A solution of 2-chloro-4-cyanopyridine (1.00 g, 7.2 mmol), glycine tert-butyl ester (1.5 mL, 10.8 mmol) and DIEA (4.9 mL, 28.9 mmol) in anhydrous DMA (15 mL) was heated at 150° C. for 48 hours. The reaction mixture was diluted with Et2O (100 mL) and washed with water (2×50 mL) and brine (50 mL). The organic layer was dried (MgSO4) and the solvents were removed under reduced pressure. After purification by flash chromatography (silica, DCM), the title compound was obtained as a yellow oil. HPLC (Method A), Rt: 3.1 min (purity: 94%). UPLC/MS, M+(ESI): 178.0 ([M-tBu+2H]+), M−(ESI): 232.1. 1H NMR (DMSO-d6, 300 MHz) δ 8.15 (d, J=5.2 Hz, 1H), 7.44 (t, J=6.2 Hz, 1H), 6.93 (brs, 1H), 6.85 (dd, J=5.2, 1.3 Hz, 1H), 3.94 (d, J=6.2 Hz, 2H), 1.38 (s, 9H).

reactant | 2-chloro-4-cyanopyridine | 7.2 mmol, 1.00 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | glycine tert-butyl ester | 10.8 mmol, 1.5 mL | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | DIEA | 28.9 mmol, 4.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | tert-butyl N-(4-cyanopyridin-2-yl)glycinate | C(#N)C1=CC(=NC=C1)NCC(=O)OC(C)(C)C | C12H15N3O2
